US05227386
200 mg of 3-(5-hydroxy-3-indolyl)quinuclidine are dissolved in 10 ml of pyridine and 5 ml of acetic anhydride are added with cooling. After one hour, the mixture is worked up as is customary. 3-(5-acetoxy-3-indolyl)quinuclidine is obtained.

reactant | 3-(5-hydroxy-3-indolyl)quinuclidine | 200 mg | OC=1C=C2C(=CNC2=CC1)C1CN2CCC1CC2 | C15H18N2O
reactant | acetic anhydride | 5 ml | C(C)(=O)OC(C)=O | C4H6O3
solvent | pyridine | 10 ml | N1=CC=CC=C1 | C5H5N
product | 3-(5-acetoxy-3-indolyl)quinuclidine | C(C)(=O)OC=1C=C2C(=CNC2=CC1)C1CN2CCC1CC2 | C17H20N2O2
